US07951950B2
A round bottom flask with magnetic stirrer was charged with 2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid (886 mg, 2.44 mmol) in anhydrous pyridine (25.0 mL). To the reaction was added N-ethyl-p-chloroaniline (0.410 mL, 2.95 mmol), followed by EDCI (833 mg, 4.34 mmol). The reaction was stirred at room temperature under an argon atmosphere for 18-20 hours. The reaction was poured into a 1:1 mixture of water/brine (50 mL) and extracted with ethyl acetate (3×35 mL). The combined extractions were washed with brine (1×50 mL), dried over magnesium sulfate, and filtered. The filtrate was concentrated in vacuo to afford a brown residue. The residue was purified via silica gel chromatography (hexanes/ethyl acetate) to yield (±)-trans-2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid (4-chloro-phenyl)-ethyl-amide (39%). 1H-NMR (CDCl3) δ: 1.02 (d, 3H), 1.12 (t, 3H), 1.64-1.74 (m, 1H), 2.49-2.58 (m, 1H), 3.59-3.72 (m, 1H), 3.77-3.90 (m, 2H), 5.03-5.14 (m, 1H), 6.35-6.41 (m, 1H), 6.74-6.84 (m, 2H), 6.89-6.95 (m, 1H), 7.17-7.25 (m, 2H), 7.44-7.52 (m, 2H), 7.63-7.69 (m, 2H). MS m/z: 501 (M+1).

reactant | 2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid | 2.44 mmol, 886 mg | CC1N(C2=CC=CC=C2C(C1)C(=O)O)C(C1=CC=C(C=C1)C(F)(F)F)=O | C19H16F3NO3
reactant | N-ethyl-p-chloroaniline | 2.95 mmol, 0.410 mL | C(C)NC1=CC=C(C=C1)Cl | C8H10ClN
reactant | EDCI | 4.34 mmol, 833 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | water brine | 50 mL | O.[Cl-].[Na+].O
solvent | pyridine | 25.0 mL | N1=CC=CC=C1 | C5H5N
product | (±)-trans-2-methyl-1-(4-trifluoromethyl-benzoyl)-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid (4-chloro-phenyl)-ethyl-amide | 39% | ClC1=CC=C(C=C1)N(C(=O)[C@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)C(F)(F)F)=O)C)CC | C27H24ClF3N2O2
